US08426035B2
2. dibenzoselenophen-4-ylboronic acid
4.0 g (17.3 mmol) of dibenzoselenophene and 150 mL of dry ether were added in a 250 mL three necked flask under nitrogen. To the mixture, 11.5 mL of BuLi (1.6 M in hexane) was added slowly at room temperature. The reaction mixture was then heated to reflux for 5 hours. The reaction mixture was cooled to −78° C. and 5 mL of trimethyl borate was added. It was then left to stir at room temperature for overnight. About 50 mL of 1 M HCl was added to the reaction mixture. The organic phase was extracted with ethyl acetate and dried with sodium sulfate. The combined organic phase was evaporated to dryness and 100 mL of 30% ethyl acetate in hexane was added to the solid with stirring at room temperature for 8 hours. The suspension was filtered, the solids were washed with hexane and dried, yielding 2 of white solids as the product which was confirmed by NMR

reactant | dibenzoselenophene | 17.3 mmol, 4.0 g | C1=CC=CC=2[Se]C3=C(C21)C=CC=C3 | C12H8Se
reactant | BuLi | 1.6 M, 11.5 mL | [Li]CCCC
reactant | trimethyl borate | 5 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | ether | 150 mL | CCOCC | C4H10O
product | dibenzoselenophen-4-ylboronic acid | C1=CC=C(C=2[Se]C3=C(C21)C=CC=C3)B(O)O | C12H9BO2Se
